US04540564
Preparation of 3-{N-[β-(3,4-Dipivalyloxyphenyl)ethyl]}carbamoylpyridine (compound 8c)
To a suspension of 5.16 g (0.02 mol) finely powdered nicotinoyldopamine in 100 ml chloroform, 7.23 g (0.06 mol) trimethylacetyl chloride were added under stirring. The mixture was refluxed for 6 hrs and then filtered. The filtrate was washed with water free of chloride ions, then washed once with a 5% solution of NaHCO3, then with water. The chloroform was evaporated and the residue was chromatographed by using a silica gel G column and 2% methanol in chloroform as the eluent. The first fraction was collected and evaporated and the residue was crystallized from ether/petroluem ether. Yield, 6.2 g (73%) of a white crystalline solid, m.p. 112°-114° C., NMR (CDCl3) δ 9.06 (bs, 1H, C2 pyridine proton), 8.73 (bd, 1H, C6 pyridine proton), 8.30-8.13 (m, 1H, C4 pyridine proton), 7.46-7.10 (m, 5H, C6H3 +C5 pyridine proton+CONH), 3.66 (q, 2H, J=6.25 Hz, --N--CH2), 3.0 (t, 2H, J=6 Hz, --CH2), 1.41 (s, 18H, 2-C(CH3)3). Anal. Calcd for C24H30N2O5 : C, 67.58; H, 7.09; N, 6.56. Found: C, 67.61; H, 7.10; N, 6.54.

reactant | nicotinoyldopamine | C(C1=CN=CC=C1)(=O)NCCC1=CC(O)=C(O)C=C1 | C14H14N2O3
reactant | trimethylacetyl chloride | 0.06 mol, 7.23 g | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-{N-[β-(3,4-Dipivalyloxyphenyl)ethyl]}carbamoylpyridine | C(C(C)(C)C)(=O)OC=1C=C(C=CC1OC(C(C)(C)C)=O)CCNC(=O)C=1C=NC=CC1 | C24H30N2O5
